US08604023B2
5-Chloro-2-(cyclopropylamino)benzonitrile
A solution of 3-chloro-6-fluorobenzonitrile (5 g), Hunig's base (5.60 mL, 1 eq), and cyclopropylamine (3.34 mL, 1.5 eq) in anhydrous N-methylpyrrolidinone (16 mL) was heated to 110° C. for 18 h in a sealed tube. The mixture was then cooled to room temperature and partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic layer was washed once with water, then brine, then concentrated and the residue was washed with hexanes delivering the product as a crystalline white solid (4.66 g, 75% yield). 1H-NMR (300 MHz, DMSO-d6) δ 7.58 (s, 1H), 7.46 (dd, 1H), 7.02 (d, 1H), 6.70 (s, 1H), 2.40 (m, 1H), 0.75 (m, 2H), 0.50 (m, 2H).

reactant | 3-chloro-6-fluorobenzonitrile | 5 g | ClC=1C=C(C#N)C(=CC1)F | C7H3ClFN
reactant | Hunig's base | 5.60 mL, 1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 3.34 mL, 1.5 eq | C1(CC1)N | C3H7N
solvent | N-methylpyrrolidinone | 16 mL | CN1C(CCC1)=O | C5H9NO
product | 5-Chloro-2-(cyclopropylamino)benzonitrile | 4.66 g, 75% yield | ClC=1C=CC(=C(C#N)C1)NC1CC1 | C10H9ClN2
